US06858651B2
A solution of 1.52 g (40 mmol) LAH in 7 ml THF was refluxed and treated for 2.5 h with a solution of 5.15 g (20 mmol) of trans-4-tert-butoxycarbonylamino-cyclohexanecarboxylic acid methyl ester in 35 ml THF. The reaction was heated for 15 h, cooled (0° C.) and hydrolyzed with 10 ml water. The mixture was diluted with THF, dried over Na2SO4, filtered and evaporated. The residue was dissolved in CH2Cl2, dried over Na2SO4, filtered and evaporated to yield 2.89 g (100%) of trans-(4-Methylamino-cyclohexyl)-methanol, mp: 87-88° C.; MS: 143 (M).

reactant | LAH | 40 mmol, 1.52 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | trans-4-tert-butoxycarbonylamino-cyclohexanecarboxylic acid methyl ester | 20 mmol, 5.15 g | COC(=O)[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C | C13H23NO4
reactant | water | 10 ml | O | H2O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | trans-(4-Methylamino-cyclohexyl)-methanol | 2.89 g, 100% | CN[C@@H]1CC[C@H](CC1)CO | C8H17NO
